US08222416B2
A mixture of 2-{4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-propan-2-ol (440 mg, 0.90 mmol) in ethanol (8 mL), tetrahydrofuran (10 mL) and an aqueous sodium hydroxide solution (10%, 3 mL) was heated at 50° C. for 16 h. The mixture was diluted with dichloromethane (50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-propan-2-ol (290 mg, 92%) which was used in the next step without further purification: LC/MS m/e calcd for C23H26N2O [M+H]+ 347.48, observed 347.2.

reactant | 2-{4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-propan-2-ol | 0.90 mmol, 440 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCCC2)C2=CC=C(C=C2)C(C)(C)O | C29H30N2O3S
reactant | sodium hydroxide | 3 mL | [OH-].[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-propan-2-ol | 290 mg, 92% | C1(CCCC1)C=C(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)C(C)(C)O | C23H26N2O
